US07728025B2
(Step 7) Production of t-butyl (3-(1-acetyl-pyrrolidin-2-yl)-4-benzyloxy-phenyl)-carbamate
3.0 ml of diisopropylethylamine and 3.8 ml of diphenylphosphoryl azide were added in order to a solution of 5 g of 3-(1-acetyl-pyrrolidin-2-yl)-4-benzyloxybenzoic acid in a mixture of 15 ml of toluene and 15 ml of 2-methyl-2-propanol, and the reaction liquid was heated overnight under reflux. After cooled, saturated saline and aqueous saturated sodium bicarbonate were added to the reaction liquid, and this was extracted with ethyl acetate, and dried with anhydrous magnesium sulfate. The solvent was evaporated away under reduced pressure, and the resulting residue was purified through silica gel column chromatography (developing solvent: hexane/ethyl acetate=1/0 to 1/1 to 0/1) to obtain the entitled compound as a colorless amorphous substance.

reactant | diisopropylethylamine | 3.0 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | diphenylphosphoryl azide | 3.8 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 3-(1-acetyl-pyrrolidin-2-yl)-4-benzyloxybenzoic acid | 5 g | C(C)(=O)N1C(CCC1)C=1C=C(C(=O)O)C=CC1OCC1=CC=CC=C1 | C20H21NO4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | 2-methyl-2-propanol | 15 ml | CC(C)(C)O | C4H10O
product | t-butyl (3-(1-acetyl-pyrrolidin-2-yl)-4-benzyloxy-phenyl)-carbamate | C(C)(=O)N1C(CCC1)C=1C=C(C=CC1OCC1=CC=CC=C1)NC(OC(C)(C)C)=O | C24H30N2O4
